US09340556B2
To a suspension of 1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carboxylic acid (2.25 g, 4.59 mmol) in tetrahydrofuran (THF) (60 mL) was added triethylamine (2.110 mL, 15.14 mmol) and ethyl chloroformate (1.322 mL. 13.76 mmol). The resulting yellow solution was stirred at room temperature for 2 h, and was then added to a solution of sodium borohydride (2.083 g, 55.0 mmol) in ethanol (60 mL). After being stirred for 2 h, the reaction was quenched by addition of water (5 mL). The organic solvent was removed in vacuo, the residue was then taken in water (50 mL) and extracted with dichloromethane (2×50 mL). The combined extracts were dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by automatic silica gel column chromatography (Combiflash RF), eluting with methanol/dichloromethane (0-10%) to afford 1-ethyl-3-(hydroxymethyl)-6,7-bis((4-methoxybenzyl)oxy)cinnolin-4(1H)-one (1.97 g, 3.64 mmol, 79% yield) as a white solid. LCMS: (M+H)+: 477.1

reactant | 1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carboxylic acid | 4.59 mmol, 2.25 g | C(C)N1N=C(C(C2=CC(=C(C=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)C(=O)O | C27H26N2O7
reactant | triethylamine | 15.14 mmol, 2.110 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 13.76 mmol, 1.322 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 55.0 mmol, 2.083 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 1-ethyl-3-(hydroxymethyl)-6,7-bis((4-methoxybenzyl)oxy)cinnolin-4(1H)-one | 3.64 mmol, 1.97 g, 79% yield | C(C)N1N=C(C(C2=CC(=C(C=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)CO | C27H28N2O6
